US07838055B2
Maltitol/lactitol liquid feed solutions were prepared by dissolving crystalline maltitol (C*Maltidex CH16385 produced by Cerestar, Krefeld, Germany; maltitol purity 99.7% on DS) into an aqueous lactitol solution produced by dissolving crystalline lactitol (Lactitol CM 50 produced by Xyrofin Oy, Kotka, Finland) to a total concentration of 67-73% on DS. The ratio of maltitol to lactitol was 1:1 by weight. The feed solution was heated to a temperature of 55-75° C. and filtered.

reactant | maltitol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O | C12H24O11
reactant | lactitol | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O | C12H22O11
product | Maltitol lactitol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O.C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O | InChI=1S/C12H22O11.C12H24O11/c13-1-4-6(16)7(17)8(18)11(21-4)22-9-5(2-14)23-12(20,3-15)10(9)19;13-1-4(16)7(18)11(5(17)2-14)23-12-10(21)9(20)8(19)6(3-15)22-12/h4-11,13-20H,1-3H2;4-21H,1-3H2/t4-,5-,6+,7+,8-,9-,10+,11+,12-;4-,5+,6+,7+,8+,9-,10+,11+,12+/m10/s1
